US04609666
α,α-Bis(4-chlorophenyl)-1H-pyrazole-4-methanol
The methiodide salt of α,α-bis(4-chlorophenyl)-pyrimidine-5-methanol (12.8 g) was heated to reflux with 3 g of anhydrous hydrazine in ethanol. The original slurry went into solution and then a precipitate formed, at which time 25 ml of water were added. The mixture was heated at reflux for 20 minutes, filtered hot, water was added and the mixture was extracted with ether. The ether was evaporated and the residue was crystallized from chloroform to provide the title product, m.p. 135°-137° C. The NMR and mass spectra were consistent with the desired structure.

reactant | α,α-bis(4-chlorophenyl)-pyrimidine-5-methanol | 12.8 g | ClC1=CC=C(C=C1)C(O)(C=1C=NC=NC1)C1=CC=C(C=C1)Cl | C17H12Cl2N2O
reactant | hydrazine | 3 g | NN | H4N2
reactant | water | 25 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | α,α-Bis(4-chlorophenyl)-1H-pyrazole-4-methanol | ClC1=CC=C(C=C1)C(O)(C=1C=NNC1)C1=CC=C(C=C1)Cl | C16H12Cl2N2O
